US06166015
Hydrogen gas (balloon pressure) was introduced into a vessel containing Pd/C (10%, 100 mg, 0.1 mmol, 0.05 equiv.) in a solution of N-[1-(2,3-dichlorobenzyl)-pyrrolidin-3-(RS)-ylmethyl]-3-[5-(4-nitrophenyl)pyrimidin-2-yl]propionamide (1.0 g, 2.2 mmol) in methanol (30 mL). After 1.5 h, the reaction was terminated by purging with N2 and the reaction mixture was filtered through celite® and concentrated. The yellow residue was dissolved in ethyl acetate, then taken into the aqueous phase using 1 M hydrochloric acid. The aqueous phase was basified to pH 11, then extracted thoroughly with ethyl acetate. The organic fractions were combined and washed with brine, then dried sodium sulfate and concentrated to afford N-[1-(2,3-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl]-3-[5-(4-aminophenyl)pyrimidin-2-yl]propionamide as a yellow crystalline solid (630 mg).

reactant | Hydrogen | [H][H] | H2
reactant | N-[1-(2,3-dichlorobenzyl)-pyrrolidin-3-(RS)-ylmethyl]-3-[5-(4-nitrophenyl)pyrimidin-2-yl]propionamide | 2.2 mmol, 1.0 g | ClC1=C(CN2CC(CC2)CNC(CCC2=NC=C(C=N2)C2=CC=C(C=C2)[N+](=O)[O-])=O)C=CC=C1Cl | C25H25Cl2N5O3
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | 0.1 mmol, 100 mg, 0.05 equiv. | [Pd] | Pd
product | N-[1-(2,3-dichlorobenzyl)pyrrolidin-3-(RS)-ylmethyl]-3-[5-(4-aminophenyl)pyrimidin-2-yl]propionamide | 630 mg | ClC1=C(CN2CC(CC2)CNC(CCC2=NC=C(C=N2)C2=CC=C(C=C2)N)=O)C=CC=C1Cl | C25H27Cl2N5O
